US04430346
Into 4.5 ml of dimethylformamide, was dissolved 624 mg of (S)-7-guanidino-3-hydroxyheptanamide hydrochloride followed by the addition of 0.9 ml of pyridine and 4 ml of n-valeric anhydride. The solution was heated at 50° C. for 24 hours. The reaction mixture was admixed with 20 ml of ice water, the separated oil layer was removed therefrom, and the aqueous layer was treated, as in Example 2, with CM Sephadex® C-25 and Sephadex® LH-20 to obtain 582 mg of purified (S)-7-guanidino-3-pentanoyloxyheptanamide hydrochloride in oily form. NMR: 0.91 (CH3), 1.2-1.9 (CH2 x5), 2.28 (COCH2), 2.47 (CH2), 3.14 (CH2), 5.21 (CH).

reactant | dimethylformamide | 4.5 ml | CN(C=O)C | C3H7NO
reactant | (S)-7-guanidino-3-hydroxyheptanamide hydrochloride | 624 mg | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)O
reactant | n-valeric anhydride | 4 ml | CCCCC(=O)OC(=O)CCCC | C10H18O3
solvent | pyridine | 0.9 ml | N1=CC=CC=C1 | C5H5N
product | (S)-7-guanidino-3-pentanoyloxyheptanamide hydrochloride | 582 mg | Cl.N(C(=N)N)CCCC[C@@H](CC(=O)N)OC(CCCC)=O | InChI=1S/C13H26N4O3.ClH/c1-2-3-7-12(19)20-10(9-11(14)18)6-4-5-8-17-13(15)16;/h10H,2-9H2,1H3,(H2,14,18)(H4,15,16,17);1H/t10-;/m0./s1
